US04131611
A stirred mixture of 36.9 g of methyl o-chlorophenylacetate, 36.0 g of N-bromosuccinimide, and 2 drops of 48% hydrobromic acid in 500 ml of carbon tetrachloride is refluxed for 20 hours and then filtered through magnesium silicate. Evaporation under reduced pressure gives methyl α-bromo-o-chlorophenylacetate as a straw-colored liquid.

reactant | methyl o-chlorophenylacetate | 36.9 g | ClC1=C(C=CC=C1)CC(=O)OC | C9H9ClO2
reactant | N-bromosuccinimide | 36.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
catalyst | hydrobromic acid | 2 drops | Br | BrH
solvent | carbon tetrachloride | 500 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | methyl α-bromo-o-chlorophenylacetate | BrC(C(=O)OC)C1=C(C=CC=C1)Cl | C9H8BrClO2
